US04780480
Sulfuric acid (0.2 ml) and 10.0 g of 3-hydroxy-6-methyl-2,3-dihydrobenzofuran were dissolved in 200 ml of benzene and heated at reflux with the azeotropic removal of water. After 3 hours, the reaction mixture was added to water (500 ml) and extracted with ether. The combined ether extracts were washed with water and saturated aqueous sodium bicarbonate, dried with sodium sulfate and the solvent evaporated to give 6-methylbenzofuran.

reactant | Sulfuric acid | 0.2 ml | S(O)(O)(=O)=O | H2O4S
reactant | 3-hydroxy-6-methyl-2,3-dihydrobenzofuran | 10.0 g | OC1COC2=C1C=CC(=C2)C | C9H10O2
reactant | water | O | H2O
reactant | water | 500 ml | O | H2O
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
product | 6-methylbenzofuran | CC1=CC2=C(C=CO2)C=C1 | C9H8O
